US06521643B1
To a suspension of 4-(4-methylpyridin-2-yl)anisole (1.38 g) in sulfuric acid (3 ml) was added fuming nitric acid (0.5 ml) dropwise at 0° C., and the mixture was stirred at 5° C. for 1 hour. The reaction mixture was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The separated organic layer was washed with water and brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 100 g, 0-5% methanol in dichloromethane) to give 4-(4-methylpyridin-2-yl)-2-nitroanisole (378 mg).

reactant | 4-(4-methylpyridin-2-yl)anisole | 1.38 g | CC1=CC(=NC=C1)C1=CC=C(C=C1)OC | C13H13NO
reactant | nitric acid | 0.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(4-methylpyridin-2-yl)-2-nitroanisole | 378 mg | CC1=CC(=NC=C1)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C13H12N2O3
